US07514460B2
4-Chloro-N-[2-(6,7-dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl ]benzamide was prepared from p-chlorobenzoyl chloride (15 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 41 mg, 83 μmol, 74%). LC/ESI-MS: m/z=492 [M(35Cl)+H]+; m/z=490 [M(35Cl)−H]−; Rt=3.45 min.

reactant | p-chlorobenzoyl chloride | 0.113 mmol, 15 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | 4-Chloro-N-[2-(6,7-dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl ]benzamide | ClC1=CC=C(C(=O)NC2=CC3=C(N=C(S3)NC3=NC=NC4=CC(=C(C=C34)OC)OC)C=C2)C=C1 | C24H18ClN5O3S
